US08303944B2
(2S,4R)-benzyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate (1.5 g, 3.4 mmol) was added as a solid to a solution of bis(2-methoxyethyl)aminosulfur trifluoride (0.98 mL, 5.1 mmol) in 15 mL CH2Cl2 cooled to −78° C. Reaction was stirred at −78° C. for two hours and then warmed to room temperature and stirred for 2 hours. Reaction was poured into saturated sodium bicarbonate solution and stirred until bubbling ceased. Layers were separated and aqueous layer washed one time with CH2Cl2. Combined organics were washed with brine, dried (MgSO4), filtered, and concentrated to give a yellow oil. The oil was triturated with CH2Cl2 and pentane to yield (2S,4S)-benzyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-4-fluoropyrrolidine-1-carboxylate JG-20 as a yellow solid (0.96 g, 62%).

reactant | (2S,4R)-benzyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate | 3.4 mmol, 1.5 g | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C21H20BrN3O3
reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 5.1 mmol, 0.98 mL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (2S,4S)-benzyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-4-fluoropyrrolidine-1-carboxylate | 0.96 g, 62% | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(C[C@H](C1)F)C(=O)OCC1=CC=CC=C1 | C21H19BrFN3O2
